US06018056
Preparation of 6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophene-3-Carboxylic Acid Methyl Ester
To toluene (20 ml) and 2,3-dihydro-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester (0.7365 g, 2.33 mmol) is added dichlorodicyanoquinone (0.5405 g, 2.38 mmol, 2.38 mmol). The mixture is placed under nitrogen and heated to reflux for 16 hours, then cooled and filtered. The filter cake is rinsed with additional toluene and the filtrate and rinse are combined and concentrated to afford crude product, which is purified by silica gel chromatography (9:1 hexanes:ethyl acetate) to afford 0.7178 g (98%) of title compound: mp 85.4-86.6° C.; IR (KBr) 3010, 2860, 1700, 1608, 1478, 1251, 1068, 1020 cm-1 ; 1H NMR (CDCl3): δ8.21 (d, 1 H, J=8.7 Hz), 7.44 (d, 2 H, J=8.4 Hz), 7.24 (s, 1 H), 7.07 (d, 1 H, J=9 Hz), 6.95 (d, 2 H, J=8.4 Hz), 3.87 (s, 3 H), 3.85 (s, 3 H), 3.78 (s, 3 H); 13C NMR (CDCl3): d 164.6, 160.2, 157.7, 149.6, 139.8, 132.7, 130.9, 126.4, 125.4, 115.2, 113.7, 104.2, 55.7, 55.4, 51.6. Anal. Calcd. for C18H16O4S: C, 65.84; H, 4.91; S, 9.76. Found: C, 65.72; H, 4.90; S, 10.04.

reactant | 2,3-dihydro-6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophene-3-carboxylic acid methyl ester | 2.33 mmol, 0.7365 g | COC(=O)C1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C18H18O4S
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 6-Methoxy-2-(4-Methoxyphenyl)benzo[b]thiophene-3-Carboxylic Acid Methyl Ester | 0.7178 g, 98% | COC(=O)C=1C2=C(SC1C1=CC=C(C=C1)OC)C=C(C=C2)OC | C18H16O4S
